### PR TITLE
chore: change more lemmas to be about enorm instead of nnnorm

### PR DESCRIPTION
**Pull request by grunweg**
---

- [x] depends on: #21782
- [x] depends on: #21783 (and this PR modifies the file split, and file splits are painful to merge over)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
Next steps (tomorrow or so):
- fix all the fallout in files depending on this one
- if possible, remove the old lemma variants
- check if these lemmas can be easily generalised; if so, do so
- move the helper lemmas to a better place

**Comment by grunweg** [comment]
This PR just has three little sorries remaining:
- in LpSpace.lean: `theorem ENNReal.rpow_ofNNReal {M : ℝ≥0} {P : ℝ} :
  (ENNReal.ofNNReal M).rpow P = ENNReal.ofNNReal (M ^ P) := sorry`
- in SchwartzSpace.lean: `lemma Real.toNNReal_mul (R S : ℝ) : R.toNNReal * S.toNNReal = (R * S).toNNReal := sorry`
- in SchwartzSpace.lean: `lemma Nat.cast_toNNReal (N : ℕ) : (Nat.cast N : ℝ≥0∞).toNNReal = (Nat.cast N : ℝ).toNNReal := sorry`

It's quite possible these are "wrong" statements, and a different strategy is better. In this case, advice is very welcome.

**Comment by grunweg** [comment]
Sorry-free now: next steps are
- split off `easy` changes (e.g. renaming a misnamed lemma)
- move new helper lemmas to appropriate places

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean [hunk 1]
```diff
@@ -504,6 +504,10 @@ theorem coe_rpow_def (x : ℝ≥0) (y : ℝ) :
     (x : ℝ≥0∞) ^ y = if x = 0 ∧ y < 0 then ⊤ else ↑(x ^ y) :=
   rfl
 
+theorem ENNReal.rpow_ofNNReal {M : ℝ≥0} {P : ℝ} (hP : 0 ≤ P) :
```
Comment (grunweg) [inline Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean:507]:
```suggestion
theorem rpow_ofNNReal {M : ℝ≥0} {P : ℝ} (hP : 0 ≤ P) :

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 2]
```diff
@@ -1255,6 +1255,15 @@ open scoped NNReal ENNReal
 variable [NormedAddCommGroup D] [MeasurableSpace D] [MeasurableSpace E] [OpensMeasurableSpace E]
   [NormedField 𝕜] [NormedSpace 𝕜 F] [SMulCommClass ℝ 𝕜 F]
 
+-- XXX: is this a sufficiently good name?
+lemma Nat.cast_toNNReal (N : ℕ) : (Nat.cast N : ℝ≥0∞).toNNReal = (Nat.cast N : ℝ).toNNReal := by
+  rw [Real.toNNReal_of_nonneg (by positivity), ENNReal.toNNReal_nat]
+  congr
+
+lemma bar (R : ℝ) (k : ℕ) : 2 ^ k * R.toNNReal = (2 ^ k * R).toNNReal := by
```
Comment (RemyDegenne) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean:1263]: That's not a great name

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 3]
```diff
@@ -1255,6 +1255,15 @@ open scoped NNReal ENNReal
 variable [NormedAddCommGroup D] [MeasurableSpace D] [MeasurableSpace E] [OpensMeasurableSpace E]
   [NormedField 𝕜] [NormedSpace 𝕜 F] [SMulCommClass ℝ 𝕜 F]
 
+-- XXX: is this a sufficiently good name?
+lemma Nat.cast_toNNReal (N : ℕ) : (Nat.cast N : ℝ≥0∞).toNNReal = (Nat.cast N : ℝ).toNNReal := by
+  rw [Real.toNNReal_of_nonneg (by positivity), ENNReal.toNNReal_nat]
+  congr
```
Comment (RemyDegenne) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean:1261]: The name looks fine to me, but the lemma should not be in that file.

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 4]
```diff
@@ -427,22 +462,53 @@ theorem eLpNorm_mono_real {f : α → F} {g : α → ℝ} (h : ∀ x, ‖f x‖
...
 
-theorem eLpNormEssSup_le_of_ae_bound {f : α → F} {C : ℝ} (hfC : ∀ᵐ x ∂μ, ‖f x‖ ≤ C) :
+theorem eLpNormEssSup_le_of_ae_bound {f : α → F} {C : ℝ≥0} (hfC : ∀ᵐ x ∂μ, ‖f x‖ₑ ≤ C) :
+    eLpNormEssSup f μ ≤ ENNReal.ofReal C := by
+  apply eLpNormEssSup_le_of_ae_enorm_bound
+  rw [Real.toNNReal_coe]
+  exact hfC
+
+set_option linter.deprecated false in
+-- @[deprecated eLpNormEssSup_le_of_ae_bound (since := "2025-02-04")]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:481]: Why is there a `deprecated` attribute in a comment here?

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 5]
```diff
@@ -453,33 +519,52 @@ theorem eLpNorm_le_of_ae_nnnorm_bound {f : α → F} {C : ℝ≥0} (hfC : ∀ᵐ
...
 
 @[simp]
 theorem eLpNorm_norm (f : α → F) : eLpNorm (fun x => ‖f x‖) p μ = eLpNorm f p μ :=
-  eLpNorm_congr_norm_ae <| Eventually.of_forall fun _ => norm_norm _
+  eLpNorm_congr_enorm_ae <| Eventually.of_forall fun _ => enorm_norm _
+
+@[simp]
+theorem eLpNorm_enorm (f : α → ε) : eLpNorm (fun x => ‖f x‖ₑ) p μ = eLpNorm f p μ :=
+  eLpNorm_congr_enorm_ae <| Eventually.of_forall fun _ => rfl
+  -- TODO: add lemma enorm_enorm and use here, instead of `rfl`
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:567]: Do you want to add that lemma in this PR?

**Comment by grunweg** [comment]
Thanks for the feedback! I have address all comments so far.

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean [hunk 6]
```diff
@@ -504,6 +504,10 @@ theorem coe_rpow_def (x : ℝ≥0) (y : ℝ) :
     (x : ℝ≥0∞) ^ y = if x = 0 ∧ y < 0 then ⊤ else ↑(x ^ y) :=
   rfl
 
+theorem rpow_ofNNReal {M : ℝ≥0} {P : ℝ} (hP : 0 ≤ P) :
+    (ENNReal.ofNNReal M).rpow P = ENNReal.ofNNReal (M ^ P) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean:508]: Can you please use the coercion here (via type ascription) to make this easier to read?

File: Mathlib/Data/ENNReal/Basic.lean [hunk 7]
```diff
@@ -510,6 +510,16 @@ theorem toNNReal_nat (n : ℕ) : (n : ℝ≥0∞).toNNReal = n := by
 theorem toReal_nat (n : ℕ) : (n : ℝ≥0∞).toReal = n := by
   rw [← ENNReal.ofReal_natCast n, ENNReal.toReal_ofReal (Nat.cast_nonneg _)]
 
+lemma _root_.Nat.cast_toNNReal (N : ℕ) :
+    (Nat.cast N : ℝ≥0∞).toNNReal = (Nat.cast N : ℝ).toNNReal := by
+  rw [Real.toNNReal_of_nonneg (by positivity), ENNReal.toNNReal_nat]
+  congr
+
+lemma _root_.Nat.rpow_mul_toNNReal (k : ℕ) (R : ℝ) :
+    2 ^ k * R.toNNReal = (2 ^ k * R).toNNReal := by
```
Comment (j-loreaux) [inline Mathlib/Data/ENNReal/Basic.lean:519]: This doesn't seem like the statement you want (i.e., it's specialized to `2`). Probably you meant something else?

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 8]
```diff
@@ -366,58 +366,70 @@ end Const
...
 
-theorem eLpNorm'_congr_nnnorm_ae {f g : α → F} (hfg : ∀ᵐ x ∂μ, ‖f x‖₊ = ‖g x‖₊) :
+theorem eLpNorm'_congr_enorm_ae {f g : α → ε} (hfg : ∀ᵐ x ∂μ, ‖f x‖ₑ = ‖g x‖ₑ) :
     eLpNorm' f q μ = eLpNorm' g q μ := by
-  have : (‖f ·‖ₑ ^ q) =ᵐ[μ] (‖g ·‖ₑ ^ q) := hfg.mono fun x hx ↦ by simp [enorm, hx]
+  have : (‖f ·‖ₑ ^ q) =ᵐ[μ] (‖g ·‖ₑ ^ q) := hfg.mono fun x hx ↦ by simp only [hx]
   simp only [eLpNorm'_eq_lintegral_enorm, lintegral_congr_ae this]
 
+@[deprecated (since := "2025-02-14")]
+alias eLpNorm'_congr_nnnorm_ae := eLpNorm'_congr_enorm_ae
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:389]: These aren't strictly aliases though, right? Because one takes place in `ℝ≥0∞` and the other in `ℝ≥0`. Is there a discussion about this that I missed somewhere? This question applies to many of the changes made in this file.

File: Mathlib/MeasureTheory/Function/LpSeminorm/CompareExp.lean [hunk 9]
```diff
@@ -47,7 +47,7 @@ theorem eLpNorm'_le_eLpNormEssSup_mul_rpow_measure_univ {q : ℝ} (hq_pos : 0 <
     eLpNorm' f q μ ≤ eLpNormEssSup f μ * μ Set.univ ^ (1 / q) := by
   have h_le : (∫⁻ a : α, ‖f a‖ₑ ^ q ∂μ) ≤ ∫⁻ _ : α, eLpNormEssSup f μ ^ q ∂μ := by
     refine lintegral_mono_ae ?_
-    have h_nnnorm_le_eLpNorm_ess_sup := coe_nnnorm_ae_le_eLpNormEssSup f μ
+    have h_nnnorm_le_eLpNorm_ess_sup := coe_enorm_ae_le_eLpNormEssSup f μ
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/LpSeminorm/CompareExp.lean:50]: I'm not sure where this lemma appears, but shouldn't it be called just `enorm_ae...` instead of `coe_enorm_ae...`?

File: Mathlib/MeasureTheory/Function/LpSpace/ContinuousFunctions.lean [hunk 10]
```diff
@@ -49,21 +49,27 @@ theorem mem_Lp (f : α →ᵇ E) : f.toContinuousMap.toAEEqFun μ ∈ Lp E p μ
...
 theorem Lp_norm_le (f : α →ᵇ E) :
     ‖(⟨f.toContinuousMap.toAEEqFun μ, mem_Lp f⟩ : Lp E p μ)‖ ≤
-      measureUnivNNReal μ ^ p.toReal⁻¹ * ‖f‖ :=
-  Lp_nnnorm_le f
+      (μ Set.univ).toNNReal ^ p.toReal⁻¹ * ‖f‖ := by
+  have := Lp_enorm_le f (E := E) (μ := μ) (p := p)
+  rw [enorm_eq_nnnorm, enorm_eq_nnnorm, ← ENNReal.rpow_eq_pow,
+    ENNReal.rpow_ofNNReal (inv_nonneg_of_nonneg ENNReal.toReal_nonneg),
+    ← ENNReal.coe_mul, ENNReal.coe_le_coe] at this
+  exact this
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/LpSpace/ContinuousFunctions.lean:72]: This kind of stuff in the diff makes me skeptical that we really want to be deleting all these results about `nnnorm`.

**Review by j-loreaux — COMMENTED** [review]
I have some concerns here. I think sometimes it really is preferably to talk about `nnnorm`. There are some places where the diff seems to increase unnecessarily just because we changed the statements of some lemmas. I think it's possible we should have lemmas about both `enorm` and `nnnorm` (although I don't love the duplication).

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
